2156-12-10 05:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Changed to AC for increased PCO2 for overnight, changed back to PS this
   AM
 INVASIVE VENTILATION - START [**2156-12-9**] 02:28 PM
 PICC LINE - START [**2156-12-9**] 03:07 PM
   0500 ccs for decreased urine output
   Allergies:
   Penicillins
   Unknown;
   Haldol (Oral) (Haloperidol)
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Desipramine
   Unknown;
   Chlorpromazine
   Unknown;
   Imipramine
   Unknown;
   Zoloft (Oral) (Sertraline Hcl)
   Unknown;
   Shellfish Derived
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-12-10**] 05:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.7
C (98.1
   HR: 93 (86 - 107) bpm
   BP: 157/97(109) {102/58(68) - 157/126(129)} mmHg
   RR: 34 (12 - 34) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    708 mL
                                                                    170 mL
   PO:
             TF:
   IVF:
                                                                    708 mL
                                                                    170 mL
   Blood products:
   Total out:
                                                                    735 mL
                                                                    170 mL
   Urine:
                                                                    735 mL
                                                                    170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -27 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 274 (274 - 299) mL
   PS : 15 cmH2O
   RR (Set): 12
   RR (Spontaneous): 5
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 34 cmH2O
   Plateau: 23 cmH2O
   Compliance: 27.8 cmH2O/mL
   SpO2: 94%
   ABG: 7.36/76.[**Numeric Identifier 126**]/111/39/13
   Ve: 6.1 L/min
   PaO2 / FiO2: 185
   Physical Examination
   General Appearance: Well nourished, No acute distress, Morbidly obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), distant heart sounds [**3-13**]
   body habitus.
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   breath sounds bilaterally, no loud wheezes
   Abdominal: Soft, slight tenderness to palpation in LUQ, c/o pain in
   RUQ.
   Extremities: DP 2+, no rigidity, reflexes diff to assess
   Skin:  Warm, healed scars from cutting behavior, warm, well perfused,
   Neurologic: Responds to: voice, moving all 4 extremities, follows
   commands appropriately
   Labs / Radiology
   259
   8.8
   108
   0.7
   42
   4.2
   7
   97
   140
   27.7
   7.6
        [image002.jpg]
                            [**2156-12-9**]  03:27 PM
                            [**2156-12-9**]  05:17 PM
                            [**2156-12-9**]  08:55 PM
   TropT
   <0.01
   TCO2
   41
   45
   Other labs: CK / CKMB / Troponin-T:21//<0.01, Ca 8.8, Mg 2.1, PO4 3.8,
   TSH 2.2, Li 0.3, Valproate 94
   Assessment and Plan
   28F morbidly obese female with hx asthma, h/o of DVT/Pe, recent MRSA
   bacteremia being transfered to the ICU for unresponsiveness and
   hypercarbic respiratory failure.
   .
   #) Hypercarbic respiratory failure: DDX includes [**Month (only) **] respiratory drive
   from intracranial pathology and primary lung pathology with
   hypoventilation (asthma, COPD,etc). Patient  has no signs or sx
   concerning for intracranial disease.   Over-medication or overdose is
   also possible, but pt denies, and lithium and valproate both negative.
   However, valproic acid can sometimes cause hyperammonemia.  She does
   have recent changes in psych meds that could be sedating. NMS or
   serotonin syndrome can also present with sedatio`n but appears unlikely
   w/o myoclonus, rigidity or fever.   Doing well with pressure support
   - extubate today, with anaesthesia and cart present
   - repeat ABG
   - urine tox
   -hold psych meds for now, but consider re-starting after extubation and
   pt is stable
   # hx PE: INR therapeutic
   - Check INR
   .
   # Bipolar disorder:
   - cont citalopram
   - hold depakote and abilify
   .
   # Recent bacteremia: S/p Vanc treatment with negative  TEE and neg
   blood cultures
   -F/u blood cx
   # abd pain- mild abdominal tenderness, but soft abdomen.  Differential
   diagnosis broad- 1) hepatobiliary disease such as cholecystitis,
   hepatitis; 2) pancreatitis; 3) intra-abdominal abscess [**3-13**] bactermia;
   4) constipation.
   -Order LFTs and amylase, lipase, monitor for fever, white count, change
   in clinical exam, stool pattern
   .
   # Finger dislocation: s/p reducation
   - ortho following to splint
   .
   #) Prophylaxis: PPI, sc heparin, bowel regimen
   .
   #) FEN:  NPO
   -after extubation, consider advancing
   -nutrition consult
   .
   #) Access: PIVs
   .
   #) Code Status: Full
   .
   #) Dispo: pending further work-up and treatment
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2156-12-9**] 03:07 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2156-12-11 05:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Patient extubated, had brief episode down to high 80s, but did well
   subsequently.
   - on CPAP overnight
   - hct, ammonia normal
   Allergies:
   Penicillins
   Unknown;
   Haldol (Oral) (Haloperidol)
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Desipramine
   Unknown;
   Chlorpromazine
   Unknown;
   Imipramine
   Unknown;
   Zoloft (Oral) (Sertraline Hcl)
   Unknown;
   Shellfish Derived
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-12-11**] 05:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 81 (81 - 105) bpm
   BP: 152/44(72) {104/34(52) - 173/84(107)} mmHg
   RR: 25 (12 - 51) insp/min
   SpO2: 87%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,421 mL
                  PO:
                                                                    880 mL
                  TF:
   IVF:
                                                                    541 mL
   Blood products:
   Total out:
                                                                  1,515 mL
                                                                      0 mL
   Urine:
                                                                  1,515 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -94 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 403 (302 - 403) mL
   PS : 5 cmH2O
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI: 94
   PIP: 12 cmH2O
   SpO2: 87%
   ABG: 7.40/63/112//11
   Ve: 9.1 L/min
   PaO2 / FiO2: 224
   Physical Examination
   General Appearance: Well nourished, No acute distress, Morbidly obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), distant heart sounds [**3-13**]
   body habitus.
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   breath sounds bilaterally, no loud wheezes
   Abdominal: Soft, slight tenderness to palpation in LUQ, c/o pain in
   RUQ.
   Extremities: DP 2+, no rigidity, reflexes diff to assess
   Skin:  Warm, healed scars from cutting behavior, warm, well perfused,
   Neurologic: Responds to: voice, moving all 4 extremities, follows
   commands appropriately
   Labs / Radiology
   264 K/uL
   8.7 g/dL
   108 mg/dL
   0.7 mg/dL
   42 mEq/L
   4.2 mEq/L
   7 mg/dL
   97 mEq/L
   140 mEq/L
   27.1 %
   6.5 K/uL
        [image002.jpg]
                            [**2156-12-9**]  03:27 PM
                            [**2156-12-9**]  05:17 PM
                            [**2156-12-9**]  08:55 PM
                            [**2156-12-10**]  05:01 AM
                            [**2156-12-10**]  06:01 AM
                            [**2156-12-10**]  04:35 PM
   WBC
   7.6
   6.5
   Hct
   27.7
   27.1
   Plt
   259
   264
   Cr
   0.7
   TropT
   <0.01
   TCO2
   41
   45
   40
   Glucose
   108
   Other labs: PT / PTT / INR:25.3/27.7/2.5, CK / CKMB /
   Troponin-T:21//<0.01, ALT / AST:[**11-22**], Alk Phos / T Bili:55/0.2,
   Amylase / Lipase:25/18, Albumin:3.1 g/dL, Ca++:8.8 mg/dL, Mg++:2.1
   mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   28F morbidly obese female with hx asthma, h/o of DVT/Pe, recent MRSA
   bacteremia being transfered to the ICU for unresponsiveness and
   hypercarbic respiratory failure.
   .
   #) Hypercarbic respiratory failure: DDX includes [**Month (only) **] respiratory drive
   from intracranial pathology and primary lung pathology with
   hypoventilation (asthma, COPD,etc). Patient  has no signs or sx
   concerning for intracranial disease.   Over-medication or overdose is
   also possible, but pt denies, and lithium and valproate both negative.
   However, valproic acid can sometimes cause hyperammonemia.  She does
   have recent changes in psych meds that could be sedating. NMS or
   serotonin syndrome can also present with sedatio`n but appears unlikely
   w/o myoclonus, rigidity or fever.   Doing well with pressure support
   - extubate today, with anaesthesia and cart present
   - repeat ABG
   - urine tox
   -hold psych meds for now, but consider re-starting after extubation and
   pt is stable
   # hx PE: INR therapeutic
   - Check INR
   .
   # Bipolar disorder:
   - cont citalopram
   - hold depakote and abilify
   .
   # Recent bacteremia: S/p Vanc treatment with negative  TEE and neg
   blood cultures
   -F/u blood cx
   # abd pain- mild abdominal tenderness, but soft abdomen.  Differential
   diagnosis broad- 1) hepatobiliary disease such as cholecystitis,
   hepatitis; 2) pancreatitis; 3) intra-abdominal abscess [**3-13**] bactermia;
   4) constipation.
   -Order LFTs and amylase, lipase, monitor for fever, white count, change
   in clinical exam, stool pattern
   .
   # Finger dislocation: s/p reducation
   - ortho following to splint
   .
   #) Prophylaxis: PPI, sc heparin, bowel regimen
   .
   #) FEN:  NPO
   -after extubation, consider advancing
   -nutrition consult
   .
   #) Access: PIVs
   .
   #) Code Status: Full
   .
   #) Dispo: pending further work-up and treatment
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2156-12-9**] 03:07 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2156-12-11 10:59:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   28 yo women with h/o DVT, admitted with Chest pain.  Developed coag neg
   staph bacteremia.  Treated, cultures cleared.  Then on floor more
   sleeping, confused, and on thursday unresponsive on floor pCO2 of 120,
   intubated and brought to MICU.  Extuabated yesterday.  Has done well.
   Slept with CPAP overnight.
   24 Hour Events:
 CALLED OUT
   Allergies:
   Penicillins
   Unknown;
   Haldol (Oral) (Haloperidol)
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Desipramine
   Unknown;
   Chlorpromazine
   Unknown;
   Imipramine
   Unknown;
   Zoloft (Oral) (Sertraline Hcl)
   Unknown;
   Shellfish Derived
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   ibuprofen
   atrovent/albuterol/flovent
   coumadin
   detrol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: No(t) Cough, No(t) Wheeze
   Flowsheet Data as of  [**2156-12-11**] 10:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 35.9
C (96.6
   HR: 87 (78 - 105) bpm
   BP: 146/72(86) {106/44(66) - 173/84(107)} mmHg
   RR: 27 (12 - 51) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,061 mL
                                                                    327 mL
   PO:
                                                                    880 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,181 mL
                                                                     87 mL
   Blood products:
   Total out:
                                                                  1,515 mL
                                                                    800 mL
   Urine:
                                                                  1,515 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    546 mL
                                                                   -473 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 403 (403 - 403) mL
   PS : 5 cmH2O
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 12 cmH2O
   SpO2: 98%
   ABG: 7.42/64/78.[**Numeric Identifier 181**]/35/13 off CPAP
   Ve: 9.1 L/min
   PaO2 / FiO2: 158
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: bases)
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): times 3, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   8.2 g/dL
   243 K/uL
   126 mg/dL
   0.7 mg/dL
   35 mEq/L
   3.6 mEq/L
   9 mg/dL
   99 mEq/L
   142 mEq/L
   26.1 %
   4.4 K/uL
        [image002.jpg]
                            [**2156-12-9**]  03:27 PM
                            [**2156-12-9**]  05:17 PM
                            [**2156-12-9**]  08:55 PM
                            [**2156-12-10**]  05:01 AM
                            [**2156-12-10**]  06:01 AM
                            [**2156-12-10**]  04:35 PM
                             [**2156-12-11**]  06:01 AM
                             [**2156-12-11**]  06:53 AM
                             [**2156-12-11**]  08:05 AM
   WBC
   7.6
   6.5
   4.4
   Hct
   27.7
   27.1
   26.1
   Plt
   259
   264
   243
   Cr
   0.7
   0.7
   TropT
   <0.01
   TCO2
   41
   45
   40
   43
   Glucose
   108
   126
   Other labs: PT / PTT / INR:25.3/27.7/2.5, CK / CKMB /
   Troponin-T:21//<0.01, ALT / AST:[**11-22**], Alk Phos / T Bili:55/0.2,
   Amylase / Lipase:25/18, Albumin:3.1 g/dL, Ca++:8.6 mg/dL, Mg++:2.1
   mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]):  Much improved hypercarbic
   failure - underlying OSA and obesity-hypoventilation
   Coag neg sepsis
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2156-12-9**] 03:07 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2156-12-12 05:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PICC LINE - STOP [**2156-12-11**] 09:34 PM
 INVASIVE VENTILATION - STOP [**2156-12-11**] 09:34 PM
 PICC LINE - START [**2156-12-12**] 01:00 AM
 CALLED OUT
   - Psych meds restarted
   - Called out to floor, but agitated on arrival, escalated, psych deemed
   pt. not competent to leave, pt. returned to ICU as too much for floor
   nurses to handle
   - Abilify 10 mg prn agitation, up to 30 mg daily then try zyprexa or
   ativan
   - arrived in unit c/o chest pain, same as pain on floor when EKG neg,
   pt. refused repeat EKG
   - Pt. refused to wear bipap
   - pt. desatted to mid 70s on 2L NC at ~0530; bipap mask placed on
   patient as she continued sleeping.
   Allergies:
   Penicillins
   Unknown;
   Haldol (Oral) (Haloperidol)
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Desipramine
   Unknown;
   Chlorpromazine
   Unknown;
   Imipramine
   Unknown;
   Zoloft (Oral) (Sertraline Hcl)
   Unknown;
   Shellfish Derived
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-12-12**] 05:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 98 (78 - 115) bpm
   BP: 158/84(98) {97/54(26) - 174/112(118)} mmHg
   RR: 33 (14 - 37) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
                  Total In:
                                                                  1,547 mL
                  PO:
                                                                  1,460 mL
                  TF:
   IVF:
                                                                     87 mL
   Blood products:
   Total out:
                                                                  1,800 mL
                                                                      0 mL
   Urine:
                                                                  1,800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -253 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.39/66/67/36/11
   General Appearance: Well nourished, No acute distress, Morbidly obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), distant heart sounds [**3-13**]
   body habitus.
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   breath sounds bilaterally, no loud wheezes
   Abdominal: Soft, slight tenderness to palpation in LUQ, c/o pain in
   RUQ.
   Extremities: DP 2+, no rigidity, reflexes diff to assess
   Skin:  Warm, healed scars from cutting behavior, warm, well perfused,
   Neurologic: Responds to: voice, moving all 4 extremities, follows
   commands appropriately
   Labs / Radiology
   302 K/uL
   9.0 g/dL
   123 mg/dL
   0.7 mg/dL
   36 mEq/L
   3.6 mEq/L
   8 mg/dL
   97 mEq/L
   143 mEq/L
   28.4 %
   5.2 K/uL
        [image002.jpg]
                            [**2156-12-9**]  05:17 PM
                            [**2156-12-9**]  08:55 PM
                            [**2156-12-10**]  05:01 AM
                            [**2156-12-10**]  06:01 AM
                            [**2156-12-10**]  04:35 PM
                             [**2156-12-11**]  06:01 AM
                             [**2156-12-11**]  06:53 AM
                             [**2156-12-11**]  08:05 AM
                             [**2156-12-12**]  01:02 AM
                             [**2156-12-12**]  05:18 AM
   WBC
   7.6
   6.5
   4.4
   5.2
   Hct
   27.7
   27.1
   26.1
   28.4
   Plt
   259
   264
   243
   302
   Cr
   0.7
   0.7
   0.7
   TCO2
   41
   45
   40
   43
   41
   Glucose
   108
   126
   123
   Other labs: PT / PTT / INR:21.0/24.7/2.0, Ca++:8.8 mg/dL, Mg++:1.9
   mg/dL, PO4:3.3 mg/dL
   ABG: 7.39 / 66 / 67 / 41 on 2-3L NC
   Assessment and Plan
    28F morbidly obese female with hx asthma, h/o of DVT/Pe, recent MRSA
   bacteremia being transfered to the ICU for unresponsiveness and
   hypercarbic respiratory failure.
   .
   #) Hypercarbic respiratory failure: DDX includes [**Month (only) **] respiratory drive
   from intracranial pathology and/or new psychiatric medication regimen
   and primary lung pathology with hypoventilation (asthma, COPD,etc).
   Patient  has no signs or sx concerning for intracranial disease.
   Over-medication or overdose is also possible, but pt denies, and
   lithium and valproate both negative.  Extubated well, only mild
   desaturation likely [**3-13**] habitus, obstructive disease, and
   hypoventilation.  Did well with CPAP overnight night of [**11-5**].
   Pt. transferred to floor, but unable to stay secondary to agitation.
   She refused CPAP overnight and was placed on 2L NC with rousing by
   nursing staff when her O2 sats dipped below the upper 80
s.  At ~0530
   she briefly desatted to mid 70
s and CPAP mask was placed on her face
   as she continued sleeping.
   -continue on non-invasive CPAP or BIPAP at night.
   -O2 by nasal canula as necesssary
   .
   # Psyche issues/ Bipolar / borderline personality disorder:  Pt. shows
   limited insight to her medical condition of OSA and danger of low O2
   sats and cessation of breathing.  She continues to refuse the CPAP, but
   also refuses ventilator support, but also does not want to die.  Has
   difficulty following the logic of her illness despite multiple attempts
   to explain.  Pt. has history of splitting and trying to
strike deals
   with medical team.
   - cont citalopram
   - hold depakote and abilify
   - follow psych recs; their input appreciated
   # abd pain- Has resolved, negative LFTs, amylase, and lipase
   .
   # Finger dislocation: s/p reducation and splitting
   - ortho following; pt. needs follow-up appointment with them 2 weeks
   after [**2156-12-6**].
   .
   #) Prophylaxis: PPI, sc heparin, bowel regimen
   .
   #) FEN:  regular foods
   - consider nutrition consult
   .
   #) Access: PIVs
   .
   #) Code Status: Full
   .
   #) Dispo: pending psych eval regarding pt. competency to make decisions
   and safe placement of patient.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2156-12-12**] 01:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2156-12-12 09:49:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   28 yo women with morbid obesity/obesity hypoventilation, severe
   depression, suicide attempts.   Went to floor, was agitation, asking
   for ambien.  Code purple called, returned to MICU.  Started on Abilify.
   24 Hour Events:
 PICC LINE - STOP [**2156-12-11**] 09:34 PM
 INVASIVE VENTILATION - STOP [**2156-12-11**] 09:34 PM
 PICC LINE - START [**2156-12-12**] 01:00 AM
 CALLED OUT
   Allergies:
   Penicillins
   Unknown;
   Haldol (Oral) (Haloperidol)
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Desipramine
   Unknown;
   Chlorpromazine
   Unknown;
   Imipramine
   Unknown;
   Zoloft (Oral) (Sertraline Hcl)
   Unknown;
   Shellfish Derived
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   abliify
   celexa
   valproate
   flovent
   atrovent
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-12-12**] 09:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.2
C (98.9
   HR: 89 (83 - 115) bpm
   BP: 131/59(76) {97/54(26) - 174/112(118)} mmHg
   RR: 24 (0 - 38) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,547 mL
                  PO:
                                                                  1,460 mL
                  TF:
   IVF:
                                                                     87 mL
   Blood products:
   Total out:
                                                                  1,800 mL
                                                                      0 mL
   Urine:
                                                                  1,800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -253 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 95%
   ABG: 7.39/66/67/36/11
   PaO2 / FiO2: 239
   Physical Examination
   PERRL.  Clear oropharynx.
   No cervical LAD
   Lungs: CTA
   CV: RRR, S1, S2 normal
   Abdmominal:  Soft NT, +BS
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: diminished), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Skin:  Not assessed
   Neurologic: Responds to voice, awake, attentive, follows commands,
   oriented
   Labs / Radiology
   9.0 g/dL
   302 K/uL
   123 mg/dL
   0.7 mg/dL
   36 mEq/L
   3.6 mEq/L
   8 mg/dL
   97 mEq/L
   143 mEq/L
   28.4 %
   5.2 K/uL
        [image002.jpg]
                            [**2156-12-9**]  05:17 PM
                            [**2156-12-9**]  08:55 PM
                            [**2156-12-10**]  05:01 AM
                            [**2156-12-10**]  06:01 AM
                            [**2156-12-10**]  04:35 PM
                             [**2156-12-11**]  06:01 AM
                             [**2156-12-11**]  06:53 AM
                             [**2156-12-11**]  08:05 AM
                             [**2156-12-12**]  01:02 AM
                             [**2156-12-12**]  05:18 AM
   WBC
   7.6
   6.5
   4.4
   5.2
   Hct
   27.7
   27.1
   26.1
   28.4
   Plt
   259
   264
   243
   302
   Cr
   0.7
   0.7
   0.7
   TCO2
   41
   45
   40
   43
   41
   Glucose
   108
   126
   123
   Other labs: PT / PTT / INR:21.0/24.7/2.0, CK / CKMB /
   Troponin-T:21//<0.01, ALT / AST:[**11-22**], Alk Phos / T Bili:55/0.2,
   Amylase / Lipase:25/18, Lactic Acid:2.6 mmol/L, Albumin:3.1 g/dL,
   Ca++:8.8 mg/dL, Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 .H/O PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]):  becomes hypoxemic with
   agitation.
   Agitation:  will discuss with psych about meds needed for discharge
   home.
   After further discussion with patient, she does not feel that she can
   go home, and wants to be placed in some
   Sort of  group home facility or some rehab.  Will discuss with SW and
   case management her options.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2156-12-12**] 01:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent: 35 minutes

2156-12-13 05:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Slept on and off all day.  Wanted to go to floor but no floor would
   accept pt.
   Bargains for getting Ambien at night if agrees to wear CPAP.  Wore CPAP
   for 2-3 hours.
   Getting Percocet PRN for dislocated L finger, received Ultram X 1 as
   well.
 NON-INVASIVE VENTILATION - START [**2156-12-13**] 12:20 AM
   Cpap.
   Allergies:
   Penicillins
   Unknown;
   Haldol (Oral) (Haloperidol)
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Desipramine
   Unknown;
   Chlorpromazine
   Unknown;
   Imipramine
   Unknown;
   Zoloft (Oral) (Sertraline Hcl)
   Unknown;
   Shellfish Derived
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-12-13**] 05:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.4
C (97.5
   HR: 110 (83 - 110) bpm
   BP: 143/86(96) {99/34(65) - 166/86(107)} mmHg
   RR: 27 (0 - 41) insp/min
   SpO2: 88%
   Heart rhythm: ST (Sinus Tachycardia)
                  Total In:
                                                                    960 mL
                  PO:
                                                                    960 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    700 mL
                                                                      0 mL
   Urine:
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    260 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 88%
   ABG: ///37/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Morbidly obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), distant heart sounds [**3-13**]
   body habitus.
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   breath sounds bilaterally, no loud wheezes
   Abdominal: Soft, slight tenderness to palpation in LUQ, c/o pain in
   RUQ.
   Extremities: DP 2+, no rigidity, reflexes diff to assess
   Skin:  Warm, healed scars from cutting behavior, warm, well perfused,
   Neurologic: Responds to: voice, moving all 4 extremities, follows
   commands appropriately
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   333 K/uL
   9.1 g/dL
   110 mg/dL
   0.7 mg/dL
   37 mEq/L
   4.0 mEq/L
   4 mg/dL
   102 mEq/L
   143 mEq/L
   29.2 %
   4.1 K/uL
        [image002.jpg]
                            [**2156-12-9**]  08:55 PM
                            [**2156-12-10**]  05:01 AM
                            [**2156-12-10**]  06:01 AM
                            [**2156-12-10**]  04:35 PM
                             [**2156-12-11**]  06:01 AM
                             [**2156-12-11**]  06:53 AM
                             [**2156-12-11**]  08:05 AM
                             [**2156-12-12**]  01:02 AM
                             [**2156-12-12**]  05:18 AM
                             [**2156-12-13**]  04:22 AM
   WBC
   7.6
   6.5
   4.4
   5.2
   4.1
   Hct
   27.7
   27.1
   26.1
   28.4
   29.2
   Plt
   259
   264
   243
   302
   333
   Cr
   0.7
   0.7
   0.7
   0.7
   TCO2
   45
   40
   43
   41
   Glucose
   108
   126
   123
   110
   Other labs: PT / PTT / INR:21.0/24.7/2.0, CK / CKMB /
   Troponin-T:21//<0.01, ALT / AST:[**11-22**], Alk Phos / T Bili:55/0.2,
   Amylase / Lipase:25/18, Lactic Acid:2.6 mmol/L, Albumin:3.1 g/dL,
   Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:5.1 mg/dL
   Assessment and Plan
   28F morbidly obese female with hx asthma, h/o of DVT/Pe, recent MRSA
   bacteremia being transfered to the ICU for unresponsiveness and
   hypercarbic respiratory failure.
   .
   #) Hypercarbic respiratory failure: DDX includes [**Month (only) **] respiratory drive
   from intracranial pathology and/or new psychiatric medication regimen
   and primary lung pathology with hypoventilation (asthma, COPD,etc).
   Pt. transferred to floor, but unable to stay secondary to agitation.
   Has been bargaining for Ambien while agreeing to wear CPAP.  Wore CPAP
   for ~2 hours last night.  Did receive Ambien.  Patient
s respiratory
   status will not change while in hospital and is not likely going to
   improve if patient does not wear CPAP at home.
   -continue on non-invasive CPAP or BIPAP at night.
   -O2 by nasal canula as necesssary
   - pt cleared medical for discharge
   .
   # Psyche issues/ Bipolar / borderline personality disorder:  Pt. shows
   limited insight to her medical condition of OSA and danger of low O2
   sats and cessation of breathing.  She continues to refuse the CPAP, but
   also refuses ventilator support, but also does not want to die.  Has
   difficulty following the logic of her illness despite multiple attempts
   to explain.  Pt. has history of splitting and trying to
strike deals
   with medical team.  Had been evaluated during code purple and felt to
   be have capacity at that time to make medical decisions
   - discuss with psych regarding patient
s medical decision-making
   capacity
   - discuss placement with psych
   - cont citalopram
   - hold depakote and abilify
   # abd pain- Has resolved, negative LFTs, amylase, and lipase
   .
   # Finger dislocation: s/p reducation and splitting
   - ortho following; pt. needs follow-up appointment with them 2 weeks
   after [**2156-12-6**].
   - pain management with Tylenol, percocet PRN
   .
   #) Prophylaxis: PPI, sc heparin, bowel regimen
   .
   #) FEN:  regular foods
   - consider nutrition consult
   .
   #) Access: PIVs
   .
   #) Code Status: Full
   .
   #) Dispo: pending psych eval, pt does not want to return home.  Will
   discuss with case management.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2156-12-12**] 01:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2156-12-14 04:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Had an episode of hypercarbia and unresponsiveness, treated with
   hyperventilation and NI ventilatory support.
   - Disposition pending discussion with psychiatry: f/u recs and note.
   - Case Management in ongoing search for placement - following up
   results of search.
   - Ortho f/u two weeks from [**12-6**] re: left digit dislocation.
   - Placement of dopamine stress test.
 NON-INVASIVE VENTILATION - START [**2156-12-13**] 12:00 PM
 EKG - At [**2156-12-13**] 03:45 PM
   Allergies:
   Penicillins
   Unknown;
   Haldol (Oral) (Haloperidol)
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Desipramine
   Unknown;
   Chlorpromazine
   Unknown;
   Imipramine
   Unknown;
   Zoloft (Oral) (Sertraline Hcl)
   Unknown;
   Shellfish Derived
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-12-14**] 04:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.9
C (98.4
   HR: 92 (82 - 106) bpm
   BP: 113/63(73) {78/34(43) - 169/117(134)} mmHg
   RR: 22 (0 - 33) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,280 mL
                  PO:
                                                                  1,280 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,280 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 433 (433 - 1,379) mL
   PS : 12 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 45%
   PIP: 12 cmH2O
   SpO2: 94%
   ABG: 7.44/57/165//12  @ 1:46 PM
   Ve: 5.3 L/min
   PaO2 / FiO2: 367
   Physical Examination
   General Appearance: Well nourished, No acute distress, Morbidly obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), distant heart sounds [**3-13**]
   body habitus.
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   breath sounds bilaterally, no loud wheezes
   Abdominal: Soft, slight tenderness to palpation in LUQ, c/o pain in
   RUQ.
   Extremities: DP 2+, no rigidity, reflexes diff to assess
   Skin:  Warm, healed extensive scarring from cutting behavior, warm,
   well perfused,
   Neurologic: Responds to: voice, moving all 4 extremities, follows
   commands appropriately
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   333 K/uL
   9.1 g/dL
   110 mg/dL
   0.7 mg/dL
   37 mEq/L
   4.0 mEq/L
   4 mg/dL
   102 mEq/L
   143 mEq/L
   29.2 %
   4.1 K/uL
        [image002.jpg]
   Labs are from yesterday; no new labs for this AM as patient has refused
   to allow them to be drawn.
                            [**2156-12-10**]  06:01 AM
                            [**2156-12-10**]  04:35 PM
                             [**2156-12-11**]  06:01 AM
                             [**2156-12-11**]  06:53 AM
                             [**2156-12-11**]  08:05 AM
                             [**2156-12-12**]  01:02 AM
                             [**2156-12-12**]  05:18 AM
                             [**2156-12-13**]  04:22 AM
                             [**2156-12-13**]  11:58 AM
                             [**2156-12-13**]  01:46 PM
   WBC
   6.5
   4.4
   5.2
   4.1
   Hct
   27.1
   26.1
   28.4
   29.2
   Plt
   [**Telephone/Fax (3) 3251**]33
   Cr
   0.7
   0.7
   0.7
   TCO2
   40
   43
   41
   44
   40
   Glucose
   126
   123
   110
   Other labs: PT / PTT / INR:21.0/24.7/2.0, CK / CKMB /
   Troponin-T:21//<0.01, ALT / AST:[**11-22**], Alk Phos / T Bili:55/0.2,
   Amylase / Lipase:25/18, Lactic Acid:2.6 mmol/L, Albumin:3.1 g/dL,
   Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:5.1 mg/dL
   Assessment and Plan
   28F morbidly obese female with hx asthma, h/o of DVT/Pe, recent MRSA
   bacteremia being transfered to the ICU for unresponsiveness and
   hypercarbic respiratory failure.
   .
   #) Hypercarbic respiratory failure: DDX includes [**Month (only) **] respiratory drive
   from intracranial pathology and/or new psychiatric medication regimen
   and primary lung pathology with hypoventilation (asthma, COPD,etc).
   Pt. transferred to floor, but unable to stay secondary to agitation.
   Has been bargaining for Ambien while agreeing to wear CPAP.  Did
   receive Ambien.  Patient
s respiratory status will not change while in
   hospital and is not likely going to improve if patient does not wear
   CPAP at home.
   -continue on non-invasive CPAP or BIPAP at night.
   -O2 by nasal canula as necesssary
   .
   # Psyche issues/ Bipolar / borderline personality disorder:  Pt. shows
   limited insight to her medical condition of OSA and danger of low O2
   sats and cessation of breathing.  She continues to refuse the CPAP, but
   also refuses ventilator support, but also does not want to die.  Has
   difficulty following the logic of her illness despite multiple attempts
   to explain.  Pt. has history of splitting and trying to
strike deals
   with medical team.  Had been evaluated during code purple and felt to
   be have capacity at that time to make medical decisions
   - discuss with psych regarding patient
s medical decision-making
   capacity
   - discuss placement with psych
   - cont citalopram
   - hold depakote and abilify
   # abd pain- Has resolved, negative LFTs, amylase, and lipase
   .
   # Finger dislocation: s/p reducation and splinting.
   - ortho following; pt. needs follow-up appointment with them 2 weeks
   after [**2156-12-6**].
   - pain management with Tylenol, percocet PRN
   .
   #) Prophylaxis: PPI, sc heparin, bowel regimen
   .
   #) FEN:  regular foods
   - consider nutrition consult
   .
   #) Access: PIVs
   .
   #) Code Status: Full
   .
   #) Dispo: pending psych eval, pt does not want to return home.
   Continuing discussions with case management.
   ICU Care
   Lines:
   PICC Line - [**2156-12-12**] 01:00 AM

2156-12-15 06:03:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2156-12-14**] 11:22 AM
 INVASIVE VENTILATION - START [**2156-12-14**] 06:50 PM
 NON-INVASIVE VENTILATION - STOP [**2156-12-14**] 07:00 PM
 NON-INVASIVE VENTILATION - STOP [**2156-12-14**] 07:00 PM
   Cpap.
   - ~1800 found unresponsive to sternal rub with eyes deviated downward &
   alkalemic (7.50 / 48 / 114 / 39) -> intubated
   - Neuro consult
   - Head CT, no acute findings
   - Coumadin stopped
   - IVF started for falling urine output
   Allergies:
   Penicillins
   Unknown;
   Haldol (Oral) (Haloperidol)
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Desipramine
   Unknown;
   Chlorpromazine
   Unknown;
   Imipramine
   Unknown;
   Zoloft (Oral) (Sertraline Hcl)
   Unknown;
   Shellfish Derived
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2156-12-14**] 06:35 PM
   Propofol - [**2156-12-15**] 04:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:  This morning she complains of a dry throat and also
   of feeling
dizzy
 as if she would pass out, not room spinning
   Flowsheet Data as of  [**2156-12-15**] 06:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.7
C (98.1
   HR: 86 (86 - 121) bpm
   BP: 132/78(90) {0/17(37) - 152/91(105)} mmHg
   RR: 19 (10 - 62) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,152 mL
                                                                     80 mL
   PO:
                                                                  1,000 mL
             TF:
   IVF:
                                                                    152 mL
                                                                     80 mL
   Blood products:
   Total out:
                                                                  2,135 mL
                                                                    215 mL
   Urine:
                                                                  2,035 mL
                                                                    115 mL
   NG:
                                                                    100 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                   -983 mL
                                                                   -136 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 466 (466 - 512) mL
   PS : 8 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 29 cmH2O
   Plateau: 25 cmH2O
   SpO2: 98%
   ABG: 7.40/62/84.[**Numeric Identifier 1000**]/38/10
   Ve: 7.5 L/min
   PaO2 / FiO2: 210
   General Appearance: Well nourished, No acute distress, Morbidly obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), distant heart sounds [**3-13**]
   body habitus.
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   breath sounds bilaterally, no loud wheezes
   Abdominal: Soft, slight tenderness to palpation in LUQ, c/o pain in
   RUQ.
   Extremities: DP 2+, no rigidity, reflexes diff to assess
   Skin:  Warm, healed extensive scarring from cutting behavior, warm,
   well perfused,
   Neurologic: Responds to: voice, moving all 4 extremities, follows
   commands appropriately
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   368 K/uL
   8.8 g/dL
   101 mg/dL
   0.6 mg/dL
   38 mEq/L
   3.4 mEq/L
   11 mg/dL
   99 mEq/L
   142 mEq/L
   28.5 %
   4.8 K/uL
        [image002.jpg] 7.4 / 62 / 84 / 40
                             [**2156-12-11**]  08:05 AM
                             [**2156-12-12**]  01:02 AM
                             [**2156-12-12**]  05:18 AM
                             [**2156-12-13**]  04:22 AM
                             [**2156-12-13**]  11:58 AM
                             [**2156-12-13**]  01:46 PM
                             [**2156-12-14**]  06:15 PM
                             [**2156-12-14**]  06:20 PM
                             [**2156-12-14**]  09:50 PM
                             [**2156-12-15**]  03:56 AM
   WBC
   5.2
   4.1
   5.9
   4.8
   Hct
   28.4
   29.2
   29.0
   28.5
   Plt
   [**Telephone/Fax (3) 3290**]68
   Cr
   0.7
   0.7
   0.7
   0.6
   0.6
   TCO2
   41
   44
   40
   39
   40
   Glucose
   126
   123
   110
   104
   101
   Other labs: PT / PTT / INR:30.5/29.9/3.1, CK / CKMB /
   Troponin-T:21//<0.01, ALT / AST:[**11-22**], Alk Phos / T Bili:55/0.2,
   Amylase / Lipase:25/18, Lactic Acid:2.6 mmol/L, Albumin:3.1 g/dL,
   Ca++:8.7 mg/dL, Mg++:1.8 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   28F morbidly obese female with hx asthma, h/o of DVT/Pe, recent MRSA
   bacteremia being transfered to the ICU for unresponsiveness and
   hypercarbic respiratory failure.
   # Alkalemic respiratory failure: Etiology of events leading to
   alkalemia and intubation last night are not clear, however, it is
   likely that the patient was having a seizure at the time given her
   downward deviated eyes.  However, seizure prophylaxis would be
   difficult given the number if different medications that the patient is
   already on.  Head CT without contrast unremarkable.  Neuro is
   following, appreciate their recs.
   - EEG
 possibly set-up while patient is sedated then plan to stop
   fentanyl & propofol and extubate patient for better study
   - f/u neuro recs
   - Attempt to wean from vent & extubate today
   .
   #) Hypercarbic respiratory failure: DDX includes [**Month (only) **] respiratory drive
   from intracranial pathology and/or new psychiatric medication regimen
   and primary lung pathology with hypoventilation (asthma, COPD,etc).
   Pt. transferred to floor, but unable to stay secondary to agitation.
   Has been bargaining for Ambien while agreeing to wear CPAP.  Did
   receive Ambien.  Patient
s respiratory status will not change while in
   hospital and is not likely going to improve if patient does not wear
   CPAP at home.
   -continue on non-invasive CPAP or BIPAP at night.
   -O2 by nasal canula as necesssary
   .
   # Psyche issues/ Bipolar / borderline personality disorder:  Pt. shows
   limited insight to her medical condition of OSA and danger of low O2
   sats and cessation of breathing.  She continues to refuse the CPAP, but
   also refuses ventilator support, but also does not want to die.  Has
   difficulty following the logic of her illness despite multiple attempts
   to explain.  Pt. has history of splitting and trying to
strike deals
   with medical team.  Had been evaluated during code purple and felt to
   be have capacity at that time to make medical decisions.  Patient has
   intermittently been refusing her psychiatric meds.  She did accept
   these medicines early yesterday afternoon.  Most of them are not
   crushable and thus she cannot receive them while intubated.
   - discuss with psych regarding patient
s medical decision-making
   capacity
   - discuss placement with psych
   - cont all psyche meds (citalopram, depakote, and abilify, etc.)
   # abd pain- Has resolved, negative LFTs, amylase, and lipase
   .
   # Finger dislocation: s/p reducation and splinting.
   - ortho following; pt. needs follow-up appointment with them 2 weeks
   after [**2156-12-6**].
   - pain management with Tylenol, percocet PRN
   .
   #) Prophylaxis: PPI, bowel regimen, therapeutic on coumadin
 holding
   coumadin for INR of 3.1
   .
   #) FEN:  regular foods when extubated; holding TF in anticipation of
   extubation later today
   - consider nutrition consult
   .
   #) Access: PIVs
   .
   #) Code Status: Full
   .
   #) Dispo: pending psych eval, pt does not want to return home.
   Continuing discussions with case management regarding safe placement
   for patient.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2156-12-12**] 01:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2156-12-16 05:46:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Discussed with cardiology utility of getting a dobutamine stress or
   nuclear study; would likely show poor  image quality and cardiology
   suggested cardiac CT scan
   Discussed with pathology options for comprehensive tox screen but we
   need know know what we're looking for
   Extubated successfully
   Received Ambien and Percocet in the evening
   Tolerated facemask CPAP for ~1hour, then switched to nasal CPAP for the
   night
   Spiked temp, got blood cxs, sputum cxs ordered
   Held Coumadin for INR 3.1
   Neuro: recommending head and neck CT
 BLOOD CULTURED - At [**2156-12-15**] 08:30 PM
 FEVER - 101.4
F - [**2156-12-15**] 08:00 PM
   Allergies:
   Penicillins
   Unknown;
   Haldol (Oral) (Haloperidol)
   Unknown;
   Compazine (Oral) (Prochlorperazine Maleate)
   Unknown;
   Desipramine
   Unknown;
   Chlorpromazine
   Unknown;
   Imipramine
   Unknown;
   Zoloft (Oral) (Sertraline Hcl)
   Unknown;
   Shellfish Derived
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-12-16**] 05:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.3
C (99.2
   HR: 92 (86 - 134) bpm
   BP: 104/58(69) {92/21(48) - 144/82(113)} mmHg
   RR: 22 (18 - 35) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,518 mL
                                                                  1,457 mL
   PO:
                                                                  1,100 mL
                                                                  1,400 mL
   TF:
   IVF:
                                                                  2,368 mL
                                                                     57 mL
   Blood products:
   Total out:
                                                                  1,889 mL
                                                                    730 mL
   Urine:
                                                                  1,789 mL
                                                                    730 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  1,629 mL
                                                                    727 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PPS
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 550 (327 - 550) mL
   PS : 12 cmH2O
   RR (Set): 16
   RR (Spontaneous): 32
   PEEP: 0 cmH2O
   FiO2: 35%
   PIP: 18 cmH2O
   SpO2: 93%
   ABG: ///36/
   Ve: 17 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, Morbidly obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, nasal CPAP on
   Cardiovascular: (S1: Normal), (S2: Normal), distant heart sounds [**3-13**]
   body habitus.
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   breath sounds bilaterally, no loud wheezes
   Abdominal: Soft, slight tenderness to palpation in LUQ, c/o pain in
   RUQ.
   Extremities: DP 2+, no rigidity, reflexes diff to assess
   Skin:  Warm, healed extensive scarring from cutting behavior, warm,
   well perfused,
   Neurologic: Responds to: voice, moving all 4 extremities, follows
   commands appropriately
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   363 K/uL
   8.4 g/dL
   112 mg/dL
   0.5 mg/dL
   36 mEq/L
   3.5 mEq/L
   7 mg/dL
   101 mEq/L
   145 mEq/L
   26.4 %
   5.5 K/uL
        [image002.jpg]
                             [**2156-12-12**]  01:02 AM
                             [**2156-12-12**]  05:18 AM
                             [**2156-12-13**]  04:22 AM
                             [**2156-12-13**]  11:58 AM
                             [**2156-12-13**]  01:46 PM
                             [**2156-12-14**]  06:15 PM
                             [**2156-12-14**]  06:20 PM
                             [**2156-12-14**]  09:50 PM
                             [**2156-12-15**]  03:56 AM
                             [**2156-12-16**]  03:44 AM
   WBC
   5.2
   4.1
   5.9
   4.8
   5.5
   Hct
   28.4
   29.2
   29.0
   28.5
   26.4
   Plt
   [**Telephone/Fax (3) 3290**]68
   363
   Cr
   0.7
   0.7
   0.6
   0.6
   0.5
   TCO2
   41
   44
   40
   39
   40
   Glucose
   123
   110
   104
   101
   112
   Other labs: PT / PTT / INR:32.3/31.4/3.4, Ca++:8.3 mg/dL, Mg++:1.8
   mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   28F morbidly obese female with hx asthma, h/o of DVT/PE, recent MRSA
   bacteremia being transfered to the ICU for unresponsiveness and
   hypercarbic respiratory failure.
   # Alkalemic respiratory failure: Etiology of events leading to
   alkalemia and intubation on [**11-13**] are not clear.  Patient was
   successfully extubated yesterday.  Neuro does not feel that the patient
   had a seizure.  Their recommendation is for head and neck CT based on
   PE & subjective complaints of patient, however, her subjective
   complaints are quite variable.  Head & neck CT not performed last night
   secondary to patient agitation.  Would appreciate if neuro could
   re-examine patient today to decide whether these studies are truly
   necessary.  Patient
s symptoms and respiratory issues may be, in part,
   secondary to her psychotropic medications.
   - EEG
 awaiting results of study
   - f/u neuro recs
   .
   #) Hypercarbic respiratory failure: DDX includes [**Month (only) **] respiratory drive
   from intracranial pathology and/or new psychiatric medication regimen
   and primary lung pathology with hypoventilation (asthma, COPD,etc).
   Pt. transferred to floor, but unable to stay secondary to agitation.
   Has been bargaining for Ambien while agreeing to wear CPAP.  Did
   receive Ambien.  Patient
s respiratory status will not change while in
   hospital and is not likely going to improve if patient does not wear
   CPAP at home.  Patient continues to intermittently refuse to wear CPAP.
   -continue on non-invasive CPAP or BIPAP at night.
   -O2 by nasal canula as necesssary
   .
   # Psyche issues/ Bipolar / borderline personality disorder:  Pt. shows
   limited insight to her medical condition of OSA and danger of low O2
   sats and cessation of breathing.  She continues to refuse the CPAP, but
   also refuses ventilator support, but also does not want to die.  Has
   difficulty following the logic of her illness despite multiple attempts
   to explain.  Pt. has history of splitting and trying to
strike deals
   with medical team.  Had been evaluated during code purple and felt not
   to have capacity at that time to make medical decisions.  Patient has
   intermittently been refusing her psychiatric meds.  She did take most
   of her medications last night, but routinely refuses her morning
   depakote dose and is only taking it at night.  Ongoing concern that her
   psychiatric regimen may be contributing to her respiratory issues.
   - discuss with psych patient
s medication regimen and whether meds can
   be further streamlined
   - discuss with psych regarding patient
s medical decision-making
   capacity
   - discuss placement with psych
   - cont all psych meds for now (citalopram, depakote, and abilify, etc.)
   .
   # abd pain- Has resolved, negative LFTs, amylase, and lipase
   .
   # Finger dislocation: s/p reducation and splinting.
   - ortho following; pt. needs follow-up appointment with them 2 weeks
   after [**2156-12-6**].
   - pain management with Tylenol, percocet PRN
   .
   # Chest pain
 likely related to anxiety and shortness of breath.  Do
   not feel that it is cardiac in origin or that any kind of stress test
   or cardiac imaging is clinically indicated.  Dobutamine and p-MIBI
   studies would be limited secondary to body habitus.
   .
   #) Prophylaxis: bowel regimen; holding coumadin for INR of 3.4
   .
   #) FEN:  regular diet
   .
   #) Access: PIVs
   .
   #) Code Status: Full
   .
   #) Dispo: Trying to place at [**Hospital1 **].    Patient is not safe to return
   home.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2156-12-12**] 01:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: